US04402972
Using the procedure of Step A of Example 15, 3.9 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate and 4.3 g of 1-methylcyclobutanol were reacted with stirring at 20° C. for 18 hours. The product was chromatographed over silica gel and was eluted with an 85-15 cyclohexane-ethyl acetate mixture to obtain 2.7 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-(1-methyl-cyclobutoxycarbonyl)-ethynyl]-cyclopropane-carboxylate melting at 76° C.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 3.9 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | 1-methylcyclobutanol | 4.3 g | CC1(CCC1)O | C5H10O
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-(1-methyl-cyclobutoxycarbonyl)-ethynyl]-cyclopropane-carboxylate | 2.7 g | CC1([C@@H]([C@@H]1C#CC(=O)OC1(CCC1)C)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H27NO5
